### PR TITLE
Add Erdős Problem 362 (Erdős–Moser subset sum bounds), link the formal proofs

### LINKED ISSUE #6175: Erdős Problem 362
### What is the Erdős problem?

https://www.erdosproblems.com/362

Let $A\subseteq \mathbb{N}$ be a finite set of size $N$. Is it true that, for any fixed $t$, there are $\ll 2^N/N^{3/2}$ many $S\subseteq A$ such that $\sum_{n\in S}n=t$? If we further ask that $\lvert S\rvert=l$ then is the number of solutions $\ll 2^N/N^2$, uniformly in $l$ and $t$?

Status: proved (Lean). Sárközy–Szemerédi (first part) and Halász (second part); formal proofs of both exist in plby/lean-proofs (`Erdos362.erdos_362`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6175.

### What changed
Adds `FormalConjectures/ErdosProblems/362.lean`:
- `erdos_362` (`research solved`, `answer(True)`): for a nonempty finite `A ⊆ ℕ` of size `N` and any `t`, the number of `S ⊆ A` with `∑ S = t` is `≤ C 2^N / N^{3/2}` (Sárközy–Szemerédi [SaSz65]).
- `erdos_362.variants.fixed_card` (`answer(True)`): with `|S| = l` the count is `≤ C 2^N / N²` uniformly in `l, t` (Halász [Ha77]).

Both linked to plby/lean-proofs `Erdos362.erdos_362` (Codex and GPT-5.6 Sol; 3 Mathlib-only files), which proves the conjunction.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos362.erdos_362` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the two statements on top of a renamed copy, same axioms (plby writes `√N ^ 3` for `N^{3/2}`):

<details>
<summary>Bridge</summary>

```lean
namespace Bridge362

lemma sqrt_pow_three (N : ℕ) : Real.sqrt N ^ 3 = (N : ℝ) ^ (3 / 2 : ℝ) := by
  rw [Real.sqrt_eq_rpow, ← Real.rpow_natCast, ← Real.rpow_mul (Nat.cast_nonneg _)]
  norm_num

theorem erdos_362_bridge : type_of% Erdos362.erdos_362 := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨C, -, h⟩ := Erdos362Plby.erdos_362.1
  refine ⟨C, fun A t hA => ?_⟩
  have := h A hA t
  rw [sqrt_pow_three] at this
  exact this

theorem fixed_card_bridge : type_of% Erdos362.erdos_362.variants.fixed_card := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨C, -, h⟩ := Erdos362Plby.erdos_362.2
  exact ⟨C, fun A l t hA => h A hA l t⟩

end Bridge362
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«362»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/362.lean [hunk 1]
```diff
@@ -0,0 +1,76 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/362.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
